US05514680
To 2-acetamido-5-fluorobenzotrifluoride (1.369 g, 6.19 mmol) in concentrated H2SO4 (6 mL) at 0° C. was added dropwise 70% HNO3 (0.8 mL, Baker). The mixture was stirred at 0° C. for 0.5 h, then at room temperature for 3 h and it was poured into ice water (25 g). The precipitate was collected by filtration, affording 2.1 g of crude 2-acetamido-5-fluoro-3-nitrobenzotrifluoride. It was crystallized from EtOH/H2O to afford 1.50 g of pure compound as yellow needles.

reactant | 2-acetamido-5-fluorobenzotrifluoride | 6.19 mmol, 1.369 g | C(C)(=O)NC1=C(C=C(C=C1)F)C(F)(F)F | C9H7F4NO
reactant | HNO3 | 0.8 mL | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | 6 mL | OS(=O)(=O)O | H2O4S
product | 2-acetamido-5-fluoro-3-nitrobenzotrifluoride | 2.1 g | C(C)(=O)NC1=C(C=C(C=C1[N+](=O)[O-])F)C(F)(F)F | C9H6F4N2O3
